US07678801B2
N-cyclopentyl-3-[2-{[3-(diethylamino)propyl]amino}-8-(2,6-difluorophenyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methylbenzamide
To the compound 3-[2-{[3-(diethylamino)propyl]amino}-8-(2,6-difluorophenyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methylbenzoic acid (40 mg, 0.074 mmol) in methylene chloride (2 mL) was bubbled with nitrogen for 5 min, then it was added HBTU (30 mg, 0.079 mmol) and cyclopentylamine (0.038 mL, 0.37 mmol). The mixture was stirred at rt overnight. Solvent was removed by rotovap. Separation by HPLC with TFA, followed by neutralization with SPE amine cartridge afforded the title compound (21 mg, 47%). LC-MS m/z 589 (M+H)+.

reactant | 3-[2-{[3-(diethylamino)propyl]amino}-8-(2,6-difluorophenyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methylbenzoic acid | 0.074 mmol, 40 mg | C(C)N(CCCNC=1N=C(C2=C(N1)N(C(C=C2)=O)C2=C(C=CC=C2F)F)C=2C=C(C(=O)O)C=CC2C)CC | C28H29F2N5O3
reactant | HBTU | 0.079 mmol, 30 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | cyclopentylamine | 0.37 mmol, 0.038 mL | C1(CCCC1)N | C5H11N
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | N-cyclopentyl-3-[2-{[3-(diethylamino)propyl]amino}-8-(2,6-difluorophenyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methylbenzamide | 21 mg, 47% | C1(CCCC1)NC(C1=CC(=C(C=C1)C)C=1C2=C(N=C(N1)NCCCN(CC)CC)N(C(C=C2)=O)C2=C(C=CC=C2F)F)=O | C33H38F2N6O2
